* 56G RX front-end chain — termination -> CTLE -> VGA (PDK passives)
* Token namespaces: params.inc (CTLE), TERM_* (bond pad / vtt), VGA_* (steering VGA).
* ctle_dut is included verbatim from ctle_pdk.cir; term and VGA bodies are inlined here
* so RSIL_W / RPPD_W / Nx / ITAIL / MOS_* / VBASE do not collide across stages.

.include params.inc
.include '{IND_SHUNT_INC}'

.lib '{PDK_MODELS}/cornerHBT.lib' hbt_typ
.lib '{PDK_MODELS}/cornerMOSlv.lib' mos_tt
.lib '{PDK_MODELS}/cornerRES.lib' res_typ
.lib '{PDK_MODELS}/cornerCAP.lib' cap_typ
.lib '{PDK_MODELS}/cornerDIO.lib' dio_tt

* ---------------------------------------------------------------------------
* Termination (from term_pdk.cir, TERM_* geometry tokens)
* ---------------------------------------------------------------------------
.subckt term_dut outp outn inp inn vdd
Cpadp inp 0 {TERM_PAD_C}
Xesd_vdd_p vdd inp 0 diodevdd_2kv m={TERM_ESD_M}
Xesd_vss_p vdd inp 0 diodevss_2kv m={TERM_ESD_M}
Xrt_p inp vtt 0 rsil w={TERM_RSIL_W} l={TERM_RSIL_L} m=1
Rout_p inp outp {TERM_ROUT_SER}

Cpadn inn 0 {TERM_PAD_C}
Xesd_vdd_n vdd inn 0 diodevdd_2kv m={TERM_ESD_M}
Xesd_vss_n vdd inn 0 diodevss_2kv m={TERM_ESD_M}
Xrt_n inn vtt 0 rsil w={TERM_RSIL_W} l={TERM_RSIL_L} m=1
Rout_n inn outn {TERM_ROUT_SER}

Xrtt_top vdd vtt 0 rppd w={TERM_VTT_RTOP_W} l={TERM_VTT_RTOP_L} m=1
Xrtt_bot vtt 0 0 rppd w={TERM_VTT_RBOT_W} l={TERM_VTT_RBOT_L} m=1
Xvtt_decap vtt 0 cap_cmim w={TERM_VTT_CAP_W} l={TERM_VTT_CAP_L} m=1

Xclamp vdd 0 nmoscl_2 m=1
.ends term_dut

* ---------------------------------------------------------------------------
* CTLE (ctle_pdk.cir — shares params.inc tokens)
* ---------------------------------------------------------------------------
.subckt ctle_dut outp outn inp inn vdd
Xl1 vdd nlp1 0 ind_shunt
Xrd1 nlp1 outp 0 rppd w={RPPD_W} l={RPPD_L} m=1
Xl2 vdd nlp2 0 ind_shunt
Xrd2 nlp2 outn 0 rppd w={RPPD_W} l={RPPD_L} m=1
Xrdeg e1 e2 0 rsil w={RSIL_W} l={RSIL_L} m=1
Xcdeg e1 e2 cap_cmomi w={CMOMI_W} l={CMOMI_L} mmin={CMOMI_MMIN} mmax={CMOMI_MMAX} feed=same m=1

XQ1 outp inp e1 s1 npn13G2 Nx={Nx}
Vs1 s1 0 dc 0
XQ2 outn inn e2 s2 npn13G2 Nx={Nx}
Vs2 s2 0 dc 0

Iref vdd mgate {ITAIL}
XMdiode mgate mgate 0 0 sg13_lv_nmos w={MOS_W_m} l={MOS_L_m} ng=1 m=1 rfmode=0
Xtail1 e1 mgate 0 0 sg13_lv_nmos w={MOS_W_m} l={MOS_L_m} ng=1 m=1 rfmode=0
Xtail2 e2 mgate 0 0 sg13_lv_nmos w={MOS_W_m} l={MOS_L_m} ng=1 m=1 rfmode=0
.ends ctle_dut

* ---------------------------------------------------------------------------
* VGA in chain — vicm port tied to CTLE output CM (no fixed VBASE source)
* ---------------------------------------------------------------------------
.subckt vga_chain_dut outp outn inp inn vicm vdd
Xl1 vdd nlp1 0 ind_shunt
Xrd1 nlp1 outp 0 rppd w={VGA_RPPD_W} l={VGA_RPPD_L} m=1
Xl2 vdd nlp2 0 ind_shunt
Xrd2 nlp2 outn 0 rppd w={VGA_RPPD_W} l={VGA_RPPD_L} m=1

Rs e1 e2 {VGA_RS}
XQ1 outp inp e1 s1 npn13G2 Nx={VGA_Nx}
Vs1 s1 0 dc 0
XQ2 outn inn e2 s2 npn13G2 Nx={VGA_Nx}
Vs2 s2 0 dc 0

XQd1 outp vicm ed1 sd1 npn13G2 Nx={VGA_Nx}
Vsd1 sd1 0 dc 0
XQd2 outn vicm ed2 sd2 npn13G2 Nx={VGA_Nx}
Vsd2 sd2 0 dc 0

Iref vdd mgate {VGA_ITAIL}
XMdiode mgate mgate 0 0 sg13_lv_nmos w={VGA_MOS_W_m} l={VGA_MOS_L_m} ng=1 m=1 rfmode=0

Vctrl ctrl 0 dc {VGA_VCTRL}
Vsp steerp 0 dc {VGA_VCTRL_P}
Vsn steern 0 dc {VGA_VCTRL_N}

Xtail1 tx1 mgate 0 0 sg13_lv_nmos w={VGA_MOS_W_m} l={VGA_MOS_L_m} ng=1 m=1 rfmode=0
Xps1 e1 steerp tx1 0 sg13_lv_nmos w={VGA_STEER_W_m} l={VGA_STEER_L_m} ng=1 m=1 rfmode=0
Xpd1 ed1 steern tx1 0 sg13_lv_nmos w={VGA_STEER_W_m} l={VGA_STEER_L_m} ng=1 m=1 rfmode=0

Xtail2 tx2 mgate 0 0 sg13_lv_nmos w={VGA_MOS_W_m} l={VGA_MOS_L_m} ng=1 m=1 rfmode=0
Xps2 e2 steerp tx2 0 sg13_lv_nmos w={VGA_STEER_W_m} l={VGA_STEER_L_m} ng=1 m=1 rfmode=0
Xpd2 ed2 steern tx2 0 sg13_lv_nmos w={VGA_STEER_W_m} l={VGA_STEER_L_m} ng=1 m=1 rfmode=0
.ends vga_chain_dut

* ---------------------------------------------------------------------------
* End-to-end chain — inp/inn = bond pads, outp/outn = VGA outputs
* ---------------------------------------------------------------------------
.subckt chain_dut outp outn inp inn vdd
Xuterm ctle_inp ctle_inn inp inn vdd term_dut
Xuctle vga_inp vga_inn ctle_inp ctle_inn vdd ctle_dut
Bvga_vicm vga_vicm 0 V=0.5*(V(vga_inp)+V(vga_inn))
Xuvga outp outn vga_inp vga_inn vga_vicm vdd vga_chain_dut
.ends chain_dut
