* 56G RX front-end chain — termination -> CTLE -> VGA -> pad driver (PDK passives)
*
* Token namespaces: params.inc (CTLE), TERM_* (bond pad / vtt), VGA_* (steering VGA),
* DRV_* (pad driver). Stage bodies are inlined with prefixed tokens so geometry
* names do not collide. Each stage subcircuit is device-only; ideal sources and
* pad capacitors live in chain_dut, which instantiates the stages.
*
* Bvga_vicm is a behavioral source with no layout counterpart. A layout chain
* will need vicm as a pin or a resistive common-mode extractor.

.include params.inc
.include '{IND_SHUNT_INC}'
.include '{IND_SHUNT_DRV_INC}'

.lib '{PDK_MODELS}/cornerHBT.lib' hbt_typ
.lib '{PDK_MODELS}/cornerMOSlv.lib' mos_tt
.lib '{PDK_MODELS}/cornerRES.lib' res_typ
.lib '{PDK_MODELS}/cornerCAP.lib' cap_typ
.lib '{PDK_MODELS}/cornerDIO.lib' dio_tt

* ---------------------------------------------------------------------------
* Termination (term_pdk.cir topology, TERM_* geometry tokens)
* ---------------------------------------------------------------------------
.subckt term_dut inp inn vdd vss
Xesd_vdd_p vdd inp vss diodevdd_2kv m={TERM_ESD_M}
Xesd_vss_p vdd inp vss diodevss_2kv m={TERM_ESD_M}
Xrt_p inp vtt vss rsil w={TERM_RSIL_W} l={TERM_RSIL_L} m=1

Xesd_vdd_n vdd inn vss diodevdd_2kv m={TERM_ESD_M}
Xesd_vss_n vdd inn vss diodevss_2kv m={TERM_ESD_M}
Xrt_n inn vtt vss rsil w={TERM_RSIL_W} l={TERM_RSIL_L} m=1

Xrtt_top vdd vtt vss rppd w={TERM_VTT_RTOP_W} l={TERM_VTT_RTOP_L} m=1
Xrtt_bot vtt vss vss rppd w={TERM_VTT_RBOT_W} l={TERM_VTT_RBOT_L} m=1
Xvtt_decap vtt vss cap_cmim w={TERM_VTT_CAP_W} l={TERM_VTT_CAP_L} m=1

Xclamp vdd vss nmoscl_2 m=1
.ends term_dut

* ---------------------------------------------------------------------------
* CTLE (ctle_pdk.cir — shares params.inc tokens)
* ---------------------------------------------------------------------------
.subckt ctle_dut outp outn inp inn vdd vss mgate
Xl1 vdd nlp1 vss ind_shunt
Xrd1 nlp1 outp vss rppd w={RPPD_W} l={RPPD_L} m=1
Xl2 vdd nlp2 vss ind_shunt
Xrd2 nlp2 outn vss rppd w={RPPD_W} l={RPPD_L} m=1
Xrdeg e1 e2 vss rsil w={RSIL_W} l={RSIL_L} m=1
Xcdeg e1 e2 cap_cmomi w={CMOMI_W} l={CMOMI_L} mmin={CMOMI_MMIN} mmax={CMOMI_MMAX} feed=same m=1

XQ1 outp inp e1 vss npn13G2 Nx={Nx}
XQ2 outn inn e2 vss npn13G2 Nx={Nx}

XMdiode mgate mgate vss vss sg13_lv_nmos w={MOS_W_m} l={MOS_L_m} ng=1 m=1 rfmode=0
Xtail1 e1 mgate vss vss sg13_lv_nmos w={MOS_W_m} l={MOS_L_m} ng=1 m=1 rfmode=0
Xtail2 e2 mgate vss vss sg13_lv_nmos w={MOS_W_m} l={MOS_L_m} ng=1 m=1 rfmode=0
.ends ctle_dut

* ---------------------------------------------------------------------------
* VGA (vga_pdk.cir topology, VGA_* tokens; vicm is an input pin)
* ---------------------------------------------------------------------------
.subckt vga_dut outp outn inp inn vicm steerp steern vdd vss mgate
Xl1 vdd nlp1 vss ind_shunt
Xrd1 nlp1 outp vss rppd w={VGA_RPPD_W} l={VGA_RPPD_L} m=1
Xl2 vdd nlp2 vss ind_shunt
Xrd2 nlp2 outn vss rppd w={VGA_RPPD_W} l={VGA_RPPD_L} m=1

XQ1 outp inp em vss npn13G2 Nx={VGA_Nx}
XQ2 outn inn em vss npn13G2 Nx={VGA_Nx}

XQd1 outp vicm ed1 vss npn13G2 Nx={VGA_Nx}
XQd2 outn vicm ed2 vss npn13G2 Nx={VGA_Nx}

XMdiode mgate mgate vss vss sg13_lv_nmos w={VGA_MOS_W_m} l={VGA_MOS_L_m} ng=1 m=1 rfmode=0

Xtail1 tx1 mgate vss vss sg13_lv_nmos w={VGA_MOS_W_m} l={VGA_MOS_L_m} ng=1 m=1 rfmode=0
Xps1 em steerp tx1 vss sg13_lv_nmos w={VGA_STEER_W_m} l={VGA_STEER_L_m} ng=1 m=1 rfmode=0
Xpd1 ed1 steern tx1 vss sg13_lv_nmos w={VGA_STEER_W_m} l={VGA_STEER_L_m} ng=1 m=1 rfmode=0

Xtail2 tx2 mgate vss vss sg13_lv_nmos w={VGA_MOS_W_m} l={VGA_MOS_L_m} ng=1 m=1 rfmode=0
Xps2 em steerp tx2 vss sg13_lv_nmos w={VGA_STEER_W_m} l={VGA_STEER_L_m} ng=1 m=1 rfmode=0
Xpd2 ed2 steern tx2 vss sg13_lv_nmos w={VGA_STEER_W_m} l={VGA_STEER_L_m} ng=1 m=1 rfmode=0
.ends vga_dut

* ---------------------------------------------------------------------------
* Pad driver (driver_pdk.cir topology, DRV_* tokens)
* ---------------------------------------------------------------------------
.subckt driver_dut outp outn inp inn vdd vss mgate
Xl1 vdd nlp1 vss ind_shunt_drv
Xrd1 nlp1 outp vss rsil w={DRV_RSIL_W} l={DRV_RSIL_L} m=1
Xl2 vdd nlp2 vss ind_shunt_drv
Xrd2 nlp2 outn vss rsil w={DRV_RSIL_W} l={DRV_RSIL_L} m=1

XQ1 outp inp em vss npn13G2 Nx={DRV_Nx}
XQ2 outn inn em vss npn13G2 Nx={DRV_Nx}

XMdiode mgate mgate vss vss sg13_lv_nmos w={DRV_MOS_W_m} l={DRV_MOS_L_m} ng=1 m=1 rfmode=0
Xtail em mgate vss vss sg13_lv_nmos w={DRV_TAIL_W_m} l={DRV_MOS_L_m} ng=1 m=1 rfmode=0

Xesd_vdd_p vdd outp vss diodevdd_2kv m={DRV_ESD_M}
Xesd_vss_p vdd outp vss diodevss_2kv m={DRV_ESD_M}
Xesd_vdd_n vdd outn vss diodevdd_2kv m={DRV_ESD_M}
Xesd_vss_n vdd outn vss diodevss_2kv m={DRV_ESD_M}
Xclamp vdd vss nmoscl_2 m=1
.ends driver_dut

* ---------------------------------------------------------------------------
* End-to-end chain — inp/inn = bond pads, outp/outn = output pads (post-driver)
* ---------------------------------------------------------------------------
.subckt chain_dut outp outn inp inn vdd
* Bond-pad hand caps (sg13g2_bondpad.lib is empty)
Cpadp_term inp 0 {TERM_PAD_C}
Cpadn_term inn 0 {TERM_PAD_C}
* inp/inn are bond pads and CTLE inputs (one metal net per side in layout)
Xuterm inp inn vdd 0 term_dut

Iref_ctle vdd ctle_mgate {ITAIL}
Xuctle vga_inp vga_inn inp inn vdd 0 ctle_mgate ctle_dut

Bvga_vicm vga_vicm 0 V=0.5*(V(vga_inp)+V(vga_inn))
Iref_vga vdd vga_mgate {VGA_ITAIL}
Vvga_sp vga_steerp 0 dc {VGA_VCTRL_P}
Vvga_sn vga_steern 0 dc {VGA_VCTRL_N}
Xuvga drv_inp drv_inn vga_inp vga_inn vga_vicm vga_steerp vga_steern vdd 0 vga_mgate vga_dut

Iref_drv vdd drv_mgate {DRV_ITAIL_HALF}
Cpadp_drv outp 0 {DRV_PAD_C}
Cpadn_drv outn 0 {DRV_PAD_C}
Xudrv outp outn drv_inp drv_inn vdd 0 drv_mgate driver_dut
.ends chain_dut
